US05068325
2-Amino-6-cinnamyl-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared from 5-bromo-1-(3-phenyl-2-propyn-1-yl)-hexahydro-4H-azepin-4-one hydrobromide by reacting with thiourea in ethanol. Yield: 4% of theory, Melting point: 145°-148° C.

reactant | 5-bromo-1-(3-phenyl-2-propyn-1-yl)-hexahydro-4H-azepin-4-one hydrobromide | Br.BrC1C(CCN(CC1)CC#CC1=CC=CC=C1)=O
reactant | thiourea | NC(=S)N | CH4N2S
solvent | ethanol | C(C)O | C2H6O
product | 2-Amino-6-cinnamyl-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | NC=1SC=2CCN(CCC2N1)CC=CC1=CC=CC=C1 | C16H19N3S
